US07759379B2
3-{3,3-Dimethyl-1-[2-(2,2,2-trifluoro-ethylamino)-acetyl]-2,3-dihydro-1H-indol-6-yl}-5,5-dimethyl-1-quinolin-4-ylmethyl-imidazolidine-2,4-dione
To a solution of 100 mg 3-(3,3-dimethyl-2,3-dihydro-1H-indol-6-yl)-5,5-dimethyl-1-quinolin-4-ylmethyl-imidazolidine-2,4-dione in 2 ml 1,2-dichloroethane in a process vial 0.08 ml ethyl-diisopropyl-amine and 27.2 mg chloroacetylchloride were added at 0° C. After stirring for 1 hour at 0° C. 119.4 mg 2,2,2-trifluoro-ethylamine were added. The resulting mixture was stirred for 1 hour at room temperature and then further 119.4 mg 2,2,2-trifluoro-ethylamine were added. The vial was sealed with a teflon septum and placed in the microwave cavity. The reaction mixture was stirred for 15 minutes at 100° C. by microwave-assisted heating (Emrys Optimizer, Personal Chemistry). After further 15 minutes stirring at 150° C. the solution was heated for 1 hour at 150° C. The solvent was removed under reduced pressure and the residue purified by preparative HPLC (C18 reverse phase column, elution with a water/acetonitrile gradient with 0.1% trifluoracetic acid). Lyophilization of the solution yielded a white solid.

reactant | 3-(3,3-dimethyl-2,3-dihydro-1H-indol-6-yl)-5,5-dimethyl-1-quinolin-4-ylmethyl-imidazolidine-2,4-dione | 100 mg | CC1(CNC2=CC(=CC=C12)N1C(N(C(C1=O)(C)C)CC1=CC=NC2=CC=CC=C12)=O)C | C25H26N4O2
reactant | ethyl-diisopropyl-amine | 0.08 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | chloroacetylchloride | 27.2 mg | ClCC(=O)Cl | C2H2Cl2O
reactant | 2,2,2-trifluoro-ethylamine | 119.4 mg | FC(CN)(F)F | C2H4F3N
reactant | 2,2,2-trifluoro-ethylamine | 119.4 mg | FC(CN)(F)F | C2H4F3N
solvent | 1,2-dichloroethane | 2 ml | ClCCCl | C2H4Cl2
product | 3-{3,3-Dimethyl-1-[2-(2,2,2-trifluoro-ethylamino)-acetyl]-2,3-dihydro-1H-indol-6-yl}-5,5-dimethyl-1-quinolin-4-ylmethyl-imidazolidine-2,4-dione | CC1(CN(C2=CC(=CC=C12)N1C(N(C(C1=O)(C)C)CC1=CC=NC2=CC=CC=C12)=O)C(CNCC(F)(F)F)=O)C | C29H30F3N5O3
